US06974817B2
(2R,5S)-1-(4-Fluoro-benzyl)-2,5-dimethyl-piperazine
To a solution of (3R,6S)-1-(4-fluoro-benzyl)-3,6-dimethyl-piperazine-2,5-dione (22 g, 87.9 mmol) in dry tetrahydrofuran (160 mL) at 0° C. was added a solution of lithium aluminum hydride (1M in tetrahydrofuran, 373 mL, 373 mmol) dropwise over 40 minutes. The reaction mixture was then refluxed for 4 hours, cooled to ambient temperature and slowly quenched with water. The resulting mixture was filtered through a pad of celite and the filter cake was washed with ethyl acetate. The filtrate was then concentrated, diluted with ethyl acetate and washed with saturated aqueous sodium hydrogen carbonate. The organic layer was separated, dried over magnesium sulfate, filtered and concentrated in vacuo to give the title compound (17.7 g).

reactant | (3R,6S)-1-(4-fluoro-benzyl)-3,6-dimethyl-piperazine-2,5-dione | 87.9 mmol, 22 g | FC1=CC=C(CN2C([C@H](NC([C@@H]2C)=O)C)=O)C=C1 | C13H15FN2O2
reactant | lithium aluminum hydride | 373 mmol, 1M, 373 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 160 mL | O1CCCC1 | C4H8O
product | (2R,5S)-1-(4-Fluoro-benzyl)-2,5-dimethyl-piperazine | 17.7 g | FC1=CC=C(CN2[C@@H](CN[C@H](C2)C)C)C=C1 | C13H19FN2
